US09168248B2
8-Chloro-3,4-dihydrospiro[chromene-2,4′-piperidinium]chloride
8-Chloro-3,4-dihydrospiro[chromene-2,4′-piperidinium]chloride TFA (10 mL) was added to tert-butyl 8-chloro-4-hydroxy-3,4-dihydro-1′H-spiro[chromene-2,4′-piperidine]-1′-carboxylate (905 mg, 2.56 mmol) and an exotherm was observed. Due to the exotherm, the solution was cooled rapidly to 0° C. and it was treated with triethylsilane (1.634 mL, 10.23 mmol). The mixture was heated to 80° C. for 1.5 h. The resulting mixture was concentrated under vacuum. To the residue was added 4 M HCl in dioxane (4 mL) and the solution was concentrated (this was repeated twice). Then, to the residue was added Et2O and the white solid was triturated under ultrasound, filtered and dried to give the title compound. LC-MS: m/z=238.1, 240.1 (MH+). 1H NMR (500 MHz, DMSO-d6): δ 8.82 (br s, 2 H), 7.27 (d, 1 H), 7.11 (d, 1 H), 6.88 (t, 1 H), 3.29-3.22 (m, 2 H), 3.05 (td, 2 H), 2.81 (t, 2 H), 1.95-1.79 (m, 6 H).

reactant | triethylsilane | 10.23 mmol, 1.634 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | 8-Chloro-3,4-dihydrospiro[chromene-2,4′-piperidinium]chloride TFA | 10 mL | [O-]C(=O)C(F)(F)F.[Cl-].ClC=1C=CC=C2CCC3(CC[NH2+]CC3)OC12.ClC=1C=CC=C2CCC3(CC[NH2+]CC3)OC12
product | 8-Chloro-3,4-dihydrospiro[chromene-2,4′-piperidinium]chloride | [Cl-].ClC=1C=CC=C2CCC3(CC[NH2+]CC3)OC12 | InChI=1S/C13H16ClNO.ClH/c14-11-3-1-2-10-4-5-13(16-12(10)11)6-8-15-9-7-13;/h1-3,15H,4-9H2;1H
